US07115740B2
D-Alaninol hydrochloride (500 mg, 6.66 mmol) (Aldrich) was dissolved in anhydrous dimethylformamide (10 mL) (Aldrich). Imidazole (544 mg, 8 mmol) (Aldrich) and tert-butyldimethylsilyl chloride (1.05 g, 7 mmol) (Aldrich) were successively added at room temperature. This mixture was stirred at room temperature for 2 hours, quenched with a solution of water-saturated aqueous sodium bicarbonate solution (5:1, 15 mL) and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate, and concentrated under reduce pressure to yield (R)-2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethylamine as a colorless oil. (Yield 852 mg, 68%).

reactant | D-Alaninol hydrochloride | 6.66 mmol, 500 mg | Cl.N[C@H](C)CO
reactant | Imidazole | 8 mmol, 544 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 7 mmol, 1.05 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (R)-2-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethylamine | C(C)(C)(C)[Si](OC[C@@H](C)N)(C)C | C9H23NOSi
